US04329518
A stirred solution of 2-fluoro-3-methyl-[1,1'-biphenyl] (1.5 g, 0.00805 mole) in 25 ml of carbon tetrachloride was irradiated and heated at reflux with a 250 watt brooder lamp. Benzoyl peroxide (0.2 g) was added to the reaction mixture, followed by N-bromosuccinimide (1.46 g, 0.00805 mole). After a total of 21 hours of irradiation, the reaction mixture was cooled, filtered, and the filter cake rinsed with carbon tetrachloride. The combined filtrates were washed with saturated aqueous sodium chloride solution. The organic phase was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to give 3-bromomethyl-2-fluoro-[1,1'-biphenyl] (2.03 g) as an oil.

reactant | 2-fluoro-3-methyl-[1,1'-biphenyl] | 0.00805 mole, 1.5 g | FC1=C(C=CC=C1C)C1=CC=CC=C1 | C13H11F
reactant | Benzoyl peroxide | 0.2 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 0.00805 mole, 1.46 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromomethyl-2-fluoro-[1,1'-biphenyl] | 2.03 g | BrCC=1C(=C(C=CC1)C1=CC=CC=C1)F | C13H10BrF
